US04789757
N-Formyl-L-Aspartic Acid
Under a nitrogen atmosphere, a slurry of 2.7 gm (20 mmol) L-aspartic acid in 4.0 ml (100 mmol) formamide was heated at 95°-100° C. for 2 hours. Examination of the resulting homogeneous mixture by proton NMR showed that the L-aspartic acid had been completely converted to its N-formyl derivative.

reactant | L-aspartic acid | 20 mmol, 2.7 gm | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | formamide | 100 mmol, 4.0 ml | C(=O)N | CH3NO
product | N-Formyl-L-Aspartic Acid | C(=O)N[C@@H](CC(=O)O)C(=O)O | C5H7NO5
